US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-[(4-phenylbutyl)amino]propyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and 4-phenylbutylamine (46 uL) according to Method A to give the title compound (34 mg). 1H-NMR (400 MHz, CD3OD) d 7.76 (s, 1H), 7.38 (d, J=8.5 Hz, 1H), 7.26-7.11 (m, 10H), 6.98 (d, J=8.5 Hz, 1H), 4.76 (s, 2H), 4.50 (t, J=6.9 Hz, 1H), 4.23 (dd, J=5.2 Hz, J=9.3 Hz, 1H), 3.17 (m, 1H), 3.09-2.91 (m, 4H), 2.75 (dd, J=9.4 Hz, J=13.6 Hz, 1H), 2.58 (t, J=7.5 Hz, 2H), 1.54 (m, 2H), 1.42 (m, 2H), 1.34 (s, 9H); IR (KBr) 3296, 2925, 1738, 1687, 1643 cm−1; HRMS m/z 661.2987 (calc. of monoisotopic mass for C36H43N3O9 gives 661.2999).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 4-phenylbutylamine | 46 uL | C1(=CC=CC=C1)CCCCN | C10H15N
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-[(4-phenylbutyl)amino]propyl}-2-(carboxymethoxy)benzoic Acid | 34 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCCCC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C36H43N3O9
